US04154935
To a solution of L-proline (5.75 g.) in 1 N sodium hydroxide (50 ml.), chilled in an ice-water bath, 2-bromo-3,3,3-trifluoropropanoic acid chloride (12 g.) is added and the mixture is vigorously stirred at room temperature for three hours. A solution of thiolacetic acid (4 ml.) and potassium carbonate (4.8 g.) in water (50 ml.) is added and the mixture is stirred at room temperature for sixteen hours. After extraction with ethyl acetate, the aqueous layer is acidified with concentrated hydrochloric acid and extracted again with ethyl acetate. This last organic phase is dried over magnesium sulfate and concentrated to dryness in vacuo. The residue is chromatographed on a silica gel column with a mixture of benzene-acetic acid (7:2) to yield 1-(2-acetylthio-3,3,3-trifluoropropanoyl)-L-proline.

reactant | L-proline | 5.75 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-bromo-3,3,3-trifluoropropanoic acid chloride | 12 g | BrC(C(=O)Cl)C(F)(F)F | C3HBrClF3O
reactant | thiolacetic acid | 4 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 1-(2-acetylthio-3,3,3-trifluoropropanoyl)-L-proline | C(C)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C10H12F3NO4S
